US05239113
Step 1 Preparation of diethyl-3-aminoadipate
Diethyl-3-oxoadipate (10 g, 46 mmol) was added to methanol (225 ml) followed by ammonium formate (27.4 g, 460 mmol) and NaBH3CN (2.7 g, 46 mmol) at 25° C. After 24 h the methanol was removed in vacuo to leave a white mass. Methylene chloride was added and the mixture filtered. The methylene chloride was evaporated resulting in an oil which was dissolved in 1N HCl (200 ml) and extracted with ether (100 ml). The ether layer was discarded and the aqueous layer was made basic using solid K2CO3. The product was extracted into methylene chloride dried over Na2SO4 and evaporated to give Diethyl-3-aminopimaleate (7.5 g). 1H NMR (d6-DMSO) δ 1.25 (t, 3H, J=8Hz), 1.26 (t, 3H, J=8Hz), 1.8 (m,2H), 1.55 (bs, 2H), 3.18 (m, 1H), 4.13 (q, 4H, J=8Hz), 4.15 (q, 4H, J=8Hz); MS (FAB) m/e 218.3 (M+H+).

reactant | Diethyl-3-oxoadipate | 46 mmol, 10 g | C(C)OC(CC(CCC(=O)OCC)=O)=O | C10H16O5
reactant | methanol | 225 ml | CO | CH4O
reactant | ammonium formate | 460 mmol, 27.4 g | C(=O)[O-].[NH4+]
reactant | NaBH3CN | 46 mmol, 2.7 g | [BH3-]C#N.[Na+]
solvent | HCl | 1N, 200 ml | Cl | ClH
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl-3-aminoadipate | C(C)OC(CC(CCC(=O)OCC)N)=O | C10H19NO4
